US06352982B1
A tetrahydrofuran (30 ml) solution of N-methyl-N-methyloxy-2-aminobenzamide (2.70 g) and N-tert-butoxycarbonyl-3-bromobenzylamine (2.86 g) was cooled to −78° C. To the solution was gradually added dropwise a hexane solution of n-butyl lithium (1.6 mol/L) (31 ml). To the mixture were then added water (70 ml) and acetic acid ethyl ester (70 ml). The organic layer was washed with water and dried over anhydrous MgSO4. The solvent was then distilled off. The residual oily compound was purified by means of a silica gel column chromatography to give 2-amino-3′-(tert-butoxycarbonylaminomethyl)benzophenone as a yellow oily product (1.2 g).

reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | N-methyl-N-methyloxy-2-aminobenzamide | 2.70 g | CN(C(C1=C(C=CC=C1)N)=O)OC | C9H12N2O2
reactant | N-tert-butoxycarbonyl-3-bromobenzylamine | 2.86 g | C(C)(C)(C)OC(=O)NCC1=CC(=CC=C1)Br | C12H16BrNO2
reactant | n-butyl lithium | 1.6 mol/L, 31 ml | C(CCC)[Li]
solvent | acetic acid ethyl ester | 70 ml | C(C)OC(C)=O | C4H8O2
solvent | water | 70 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 2-amino-3′-(tert-butoxycarbonylaminomethyl)benzophenone | NC1=C(C(=O)C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)C=CC=C1 | C19H22N2O3
